US08978554B2
7.5 g (0.1 mol) mol) glycine was dissolved in 100 ml 2 N NaOH. The solution was cooled to 0° C. and 10.8 g (0.12 mol) acryloyl chloride was added dropwise over 45 minutes, while the temperature was kept below 10° C. The reaction was allowed to continue for one hour at 10° C. The reaction mixture was extracted 2 times with 50 ml tert. butyl methyl ether. The pH was adjusted to pH=3, using a concentrated hydrochloric acid solution and the reaction mixture was saturated with sodium chloride. The mixture was extracted 5 times with 100 ml n.-pentanol. The pooled n.-pentanol fractions were dried over Na2SO4 and evaporated under reduced pressure, after addition of a small fraction BHT as stabilizer. 4.2 g (32.5%) of N-acryloyl-glycine was isolated (m.p. 124-126° C.). N-acryloyl-glycine is Comparative Monomer 5 (see below).

reactant | glycine | NCC(=O)O | C2H5NO2
reactant | acryloyl chloride | 0.12 mol, 10.8 g | C(C=C)(=O)Cl | C3H3ClO
solvent | NaOH | 2 N, 100 ml | [OH-].[Na+]
product | N-acryloyl-glycine | 4.2 g, 32.5% | C(C=C)(=O)NCC(=O)O | C5H7NO3
